US07728025B2
(Step 3) Production of N-(4-(1,4-dihydroxy-3-methylbutyl)-3-fluorophenyl)pyridine-2-carboxamide
1.20 ml of borane-methyl sulfide complex (1 M dichloromethane solution) was added to a tetrahydrofuran (5 ml) solution of 0.082 ml of cyclohexene with cooling with ice. The reaction liquid was stirred for 10 minutes with cooling with ice, and a tetrahydrofuran (3 ml) solution of 301 mg of N-(3-fluoro-4-(1-hydroxy-3-methyl-3-buten-1-yl)phenyl)pyridine-2-carboxamide was added to it, and the reaction liquid was stirred at room temperature for 1 hour. 0.50 ml of aqueous 5 N sodium hydroxide solution and aqueous 35% hydrogen peroxide solution were added in order to the reaction liquid, and stirred at room temperature for 10 minutes. The reaction liquid was poured into an aqueous saturated ammonium chloride solution, extracted with ethyl acetate, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=9/1) to obtain the entitled compound.

reactant | borane methyl sulfide | 1 M, 1.20 ml | B.CSC
reactant | cyclohexene | 0.082 ml | C1=CCCCC1 | C6H10
reactant | N-(3-fluoro-4-(1-hydroxy-3-methyl-3-buten-1-yl)phenyl)pyridine-2-carboxamide | 301 mg | FC=1C=C(C=CC1C(CC(=C)C)O)NC(=O)C1=NC=CC=C1 | C17H17FN2O2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(4-(1,4-dihydroxy-3-methylbutyl)-3-fluorophenyl)pyridine-2-carboxamide | OC(CC(CO)C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C17H19FN2O3
